US08633173B2
7-[8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (0.630 g, 1.92 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.605 g, 2.31 mmol) in a manner analogous to Example 311b to give product (0.750 g, 71%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.56 (s, 1H), 8.79 (d, 1H), 7.95 (s, 1H), 7.82 (d, 1H), 7.65 (d, 1H), 7.42 (m, 3H), 7.05 (m, 2H), 3.85 (s, 3H), 3.42 (m, 4H), 2.75 (m, 4H), 1.41 (s, 9H): MS=554 (MH)+.

reactant | 2-chloro-8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 1.92 mmol, 0.630 g | ClC1=NN2C(C(=CC=C2)C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C14H9ClF3N3O
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 2.31 mmol, 0.605 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-[8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)OC)=N2 | C29H30F3N5O3
